US05866592
N-(N-(4-(4-Morpholinoimidoyl)benzoyl)-β-ethyl-α,α-dimethyl-β-alanyl)-4-piperidineacetic acid
Ethyl N-(N-(4-(4-morpholinoimidoyl)benzoyl)-β-ethyl-α,α-dimethyl-β-alanyl)-4-piperidineacetate (28 mg, 54.4 mmol) as prepared in Example 43 was dissolved in ethanol (10 ml). To the resulting solution was added a 4N aqueous solution of NaOH (3 ml) under cooling with ice and the mixture was stirred for 3 hours. The mixture was neutralized with acetic acid under cooling with ice. After the ethanol was distilled off, the residue was dissolved in water and purified with a high performance liquid chromatography (HPLC) [column: ODS 5C18 (μ bondasphere, φ 19×150 mm), mobile phase: (A) 0.1% TFA, (B) 100% CH3CN/0.1% TFA, gradient: (A):(B)=76:24-74:26, 6 minutes, flow rate: 17 ml/min]. The desired fractions were collected and lyophilized to yield the titled compound (20.3 mg, 77%).

reactant | Ethyl N-(N-(4-(4-morpholinoimidoyl)benzoyl)-β-ethyl-α,α-dimethyl-β-alanyl)-4-piperidineacetate | 54.4 mmol, 28 mg | N1(CCOCC1)C(=N)C1=CC=C(C(=O)NC(C(C(=O)N2CCC(CC2)CC(=O)OCC)(C)C)CC)C=C1 | C28H42N4O5
reactant | NaOH | 3 ml | [OH-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | N-(N-(4-(4-Morpholinoimidoyl)benzoyl)-β-ethyl-α,α-dimethyl-β-alanyl)-4-piperidineacetic acid | 20.3 mg, 77% | N1(CCOCC1)C(=N)C1=CC=C(C(=O)NC(C(C(=O)N2CCC(CC2)CC(=O)O)(C)C)CC)C=C1 | C26H38N4O5
